US08227458B2
trans-1-[8-Chloro-1-(4-phenoxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzoazulen-5-yl]-ethanone
To a solution of trans-8-chloro-1-(4-phenoxy-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene hydrochloride (0.071 g, 0.18 mmol) and triethylamine (0.048 ml, 0.35 mmol) in dichloromethane was added acetyl chloride (0.013 ml, 0.18 mmol) at room temperature. Stirring for 18 h was followed by partitioning between 1 M aqueous sodium hydroxide solution (50 ml) and dichloromethane (50 ml). The organic layer was separated. The aqueous layer was extracted with one 50-ml portion of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.039 g, 54%) as white solid.

reactant | trans-8-chloro-1-(4-phenoxy-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene hydrochloride | 0.18 mmol, 0.071 g | Cl.ClC=1C=CC2=C(CNCC3=NN=C(N23)[C@@H]2CC[C@H](CC2)OC2=CC=CC=C2)C1
reactant | triethylamine | 0.35 mmol, 0.048 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.18 mmol, 0.013 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-1-[8-Chloro-1-(4-phenoxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzoazulen-5-yl]-ethanone | 0.039 g, 54% | ClC=1C=CC2=C(CN(CC3=NN=C(N23)[C@@H]2CC[C@H](CC2)OC2=CC=CC=C2)C(C)=O)C1 | C24H25ClN4O2
